US06747023B1
4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[(piperidin-1-yl)carbonyl]methyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride
Starting materials: lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate, 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[[(piperidin-1-yl)carbonyl]methyl]piperazine hydrochloride

reactant | lithium 6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridine-2-carboxylate | CC1CC2=C(CN1)SC(=N2)C(=O)[O-].[Li+]
reactant | 1-[(6-chloronaphthalen-2-yl)sulfonyl]-3-[[(piperidin-1-yl)carbonyl]methyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)CC(=O)N1CCCCC1
product | 4-[(6-Chloronaphthalen-2-yl)sulfonyl]-2-[[(piperidin-1-yl)carbonyl]methyl]-1-[(6-methyl-4,5,6,7-tetrahydrothiazolo[5,4-c]pyridin-2-yl)carbonyl]piperazine hydrochloride | Cl.ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C=1SC=2CNC(CC2N1)C)CC(=O)N1CCCCC1 | InChI=1S/C29H34ClN5O4S2.ClH/c1-19-13-25-26(17-31-19)40-28(32-25)29(37)35-12-11-34(18-23(35)16-27(36)33-9-3-2-4-10-33)41(38,39)24-8-6-20-14-22(30)7-5-21(20)15-24;/h5-8,14-15,19,23,31H,2-4,9-13,16-18H2,1H3;1H
